### PR TITLE
Return time of the classical Harmonic oscillator (an open TODO from section F)

### PR DESCRIPTION
**Pull request by abudjum**
Hello,

I tried to solve an open TODO item from the Section F  of Physlib.ClassicalMechanics.HarmonicOscillator.Solution which resulted in the following lemma:

Assuming that the initial coordinate and velocity are not simultaneously zero,
the time stamps when the harmonic oscillator returns to its initial coordinate and velocity is
a multiple of its period

### CODE REVIEW

File: Physlib/ClassicalMechanics/HarmonicOscillator/Solution.lean [hunk 1]
```diff
@@ -867,6 +867,92 @@ lemma trajectory_periodic (IC : InitialConditions) :
...
   rfl
 
+/--
+Assuming that the initial coordinate and velocity are not simultaneously zero,
+the time stamps when the harmonic oscillator returns to its initial coordinate and velocity is
+a multiple of its period
+-/
+lemma return_time (IC : InitialConditions) (non_trivial : (IC.x₀ ≠ 0 ∨ IC.v₀ ≠ 0) )
+    (t : Time) (ht : IC.trajectory S t = IC.x₀ ∧ ∂ₜ (IC.trajectory S) t = IC.v₀) :
+    (∃ n : ℤ,  (n : ℝ ) * (T S) = t) := by
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/HarmonicOscillator/Solution.lean]: Would remove some unneeded spaces and brackets here: 
```suggestion
lemma return_time (IC : InitialConditions) (non_trivial : IC.x₀ ≠ 0 ∨ IC.v₀ ≠ 0)
    (t : Time) (ht : IC.trajectory S t = IC.x₀ ∧ ∂ₜ (IC.trajectory S) t = IC.v₀) :
    ∃ n : ℤ,  (n : ℝ) * (T S) = t := by
```

File: Physlib/ClassicalMechanics/HarmonicOscillator/Solution.lean [hunk 2]
```diff
@@ -867,6 +867,92 @@ lemma trajectory_periodic (IC : InitialConditions) :
...
+    _ = c * ((vv +   xx * S.ω^2) / det) + s * xv *S.ω* (S.ω/S.ω-1 ) / det := by
+      nth_rewrite 1 [← hvv, ← hxx]
+      ring_nf
+    _ = c * ((vv +   xx * S.ω^2) / det ) := by
+      simp only [ne_eq, S.ω_ne_zero, not_false_eq_true,
+        div_self, sub_self, mul_zero, zero_div, add_zero]
+    _ = c * (det / det) := by rfl
+    _ = c := by simp only [ne_eq, det_ne_zero, not_false_eq_true, div_self, mul_one]
+    _ = _ := by rfl
+
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/HarmonicOscillator/Solution.lean]:
```suggestion
```
Generally no new lines in proofs

File: Physlib/ClassicalMechanics/HarmonicOscillator/Solution.lean [hunk 3]
```diff
@@ -867,6 +867,92 @@ lemma trajectory_periodic (IC : InitialConditions) :
...
+  let ⟨n, hn⟩ := (Real.cos_eq_one_iff (S.ω * t)).mp (Eq.symm hcos)
+  use n
+  calc
+    (n : ℝ) * (T S) = (n : ℝ) * (2 * π / S.ω) := by rfl
+    _ = ((n : ℝ) * (2 * π)) / S.ω := by ring_nf
+    _ = ( S.ω * t) / S.ω := by rw [hn]
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/HarmonicOscillator/Solution.lean]:
```suggestion
    _ = (S.ω * t) / S.ω := by rw [hn]
```

File: Physlib/ClassicalMechanics/HarmonicOscillator/Solution.lean [hunk 4]
```diff
@@ -867,6 +867,92 @@ lemma trajectory_periodic (IC : InitialConditions) :
...
+     _ = inner ℝ (-( S.ω • s • IC.x₀) + c • IC.v₀) IC.v₀ := by rw [neg_smul]
+     _ = vv := by rw [htv]
+  have hcos : 1 = cos (S.ω * t) := by
+    calc
+    1 =  det / det := by simp only [ne_eq, det_ne_zero, not_false_eq_true, div_self]
+    _ = (vv +   xx * S.ω^2 ) / det := by rfl
+    _ = c * ((vv +   xx * S.ω^2) / det) + s * xv *S.ω* (S.ω/S.ω-1 ) / det := by
+      nth_rewrite 1 [← hvv, ← hxx]
+      ring_nf
+    _ = c * ((vv +   xx * S.ω^2) / det ) := by
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/HarmonicOscillator/Solution.lean]:
```suggestion
    _ = (vv + xx * S.ω^2 ) / det := by rfl
    _ = c * ((vv + xx * S.ω^2) / det) + s * xv *S.ω* (S.ω/S.ω-1 ) / det := by
      nth_rewrite 1 [← hvv, ← hxx]
      ring_nf
    _ = c * ((vv + xx * S.ω^2) / det ) := by
```

**Review by jstoobysmith — COMMENTED** [review]
This looks good but there are some stray spaces in this which are likely best removed.

**Comment by jstoobysmith** [comment]
When these are addressed, please could you make a comment with a `-awaiting-author` to remove said label.

**Comment by abudjum** [comment]
-awaiting-author

**Review by jstoobysmith — APPROVED** [review]
Great! Many thanks for this first PR - hopefully the first of many :). This now looks good to me. I've approved and will merge shortly!
